US07772285B2
2.00 g of 2-amino-5-methylbenzoic acid was suspended in 20 mL of water, to which 1.18 g of potassium cyanate was added and a mixture of 0.23 mL of acetic acid and 1 mL of water were added dropwise, and this suspension was stirred for 1.5 hours at 50° C. Then, after a solution of 1.42 g of sodium hydroxide in 2 mL of water was added drowise, to which 40 mL of water and 20 mL of 1,4-dioxane were added, and this solution was stirred for 3.5 hours while heating it under reflux. The reaction mixture was ice-cooled, from which precipitated solid was filtered, and then 30 mL of water and 3 mL of 6M of hydrochloric acid were added to the resultant solid, which was then stirred for 1.5 hours while heating it under reflux. The reaction mixture was cooled to room temperature, from which resultant precipitate was filtered and washed with water to yield 1.17 g of 6-methyl-2,4-(1H,3H)-quinazolinedione as white solid.

reactant | 2-amino-5-methylbenzoic acid | 2.00 g | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | potassium cyanate | 1.18 g | [O-]C#N.[K+]
reactant | acetic acid | 0.23 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 1.42 g | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
solvent | water | 2 mL | O | H2O
solvent | water | 40 mL | O | H2O
solvent | water | 1 mL | O | H2O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 6-methyl-2,4-(1H,3H)-quinazolinedione | 1.17 g | CC=1C=C2C(NC(NC2=CC1)=O)=O | C9H8N2O2
